US06562828B1
4-Cyanopiperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 4-carbamoylpiperidine-1-carboxylic acid tert-butyl ester (5.6 g) in a mixture of tetrahydrofuran (110 ml) and carbon tetrachloride (90 ml) was added triphenylphosphine (24.4 g), and the mixture was stirred under reflux for 1.5 hours. After completion of the reaction, the reaction mixture was filtrated and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) and dried under reduced pressure to give the title compound (3.5 g).

reactant | 4-carbamoylpiperidine-1-carboxylic acid tert-butyl ester | 5.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N)=O | C11H20N2O3
reactant | triphenylphosphine | 24.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Cyanopiperidine-1-carboxylic Acid tert-Butyl Ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
